US09388189B2
a) 3-Bromobenzohydrazide
Methyl 3-bromobenzoate (2 g, 9.3 mmol) was dissolved in 25 ml ethanol. Hydrazine hydrate (4.5 ml, 92.9 mmol) was added and the reaction was stirred at 80° C. overnight. The reaction mixture was evaporated under reduced pressure and a white solid was formed. This solid was washed with water and diethyl ether and dried in the vacuum oven to afford 1.8 g (90% yield) of the title compound. Purity 100%.

reactant | Methyl 3-bromobenzoate | 9.3 mmol, 2 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | Hydrazine hydrate | 92.9 mmol, 4.5 ml | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Bromobenzohydrazide | 1.8 g, 90% yield | BrC=1C=C(C(=O)NN)C=CC1 | C7H7BrN2O
